### PR TITLE
feat: prove that each (total) preorder is an extension of a (linear) partial order

### PR DESCRIPTION
**Pull request by ctchou**
Co-authored-by: Peter Nelson <apn.uni@gmail.com> (original author)

---
This is a part of PR #27217, which continues the work in PR #12773.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Extension/Linear.lean [hunk 1]
```diff
@@ -87,3 +106,118 @@ noncomputable def toLinearExtension {α : Type u} [PartialOrder α] : α →o Li
...
+    simp_rw [RefineBy]
+    have hr := total_of r a b
+    have hs := total_of s a b
+    tauto
+
+/-- Using choice, every preorder is an extension of some partial order. -/
+theorem exists_eq_extend_partialOrder (r : α → α → Prop) [IsPreorder α r] :
+    ∃ (s : α → α → Prop), IsPartialOrder α s ∧ s ≤ r := by
+  obtain ⟨s, hs, -⟩ := extend_partialOrder (@Eq α)
+  exact ⟨RefineBy r s, inferInstance, fun _ _ h ↦ h.1⟩
```
Comment (b-mehta) [inline Mathlib/Order/Extension/Linear.lean:141]: I don't really understand the point of this lemma - we can just take s = Eq, which is always a partial order less than r.

**Review by b-mehta — COMMENTED** [review]
It's not clear to me that the definitions in this PR are that valuable: they seem to only be useful for this particular proof of hypergraph Ramsey, which itself seems to me to be a very roundabout way of getting to that result...

File: Mathlib/Order/Extension/Linear.lean (hunk 1 above)
Comment (ctchou) [reply Mathlib/Order/Extension/Linear.lean:141]: @apnelson1  Could you comment on Bhavik's comment?  I'm not the original author and am just trying to facilitate the eventual inclusion of #27217 into mathlib by splitting it into more manageable chunks.

Comment (YaelDillies) [reply Mathlib/Order/Extension/Linear.lean:141]: As you can see, that lemma is used nowhere in #27217, which is further evidence that is useless. I can only assume Peter wrote it by analogy with the totally ordered case, without noticing its vacuity

**Comment by ctchou** [comment]
See the comment in https://github.com/leanprover-community/mathlib4/pull/27217
